US04009181
6-Methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid (10 g.) was dissolved in 300 ml. of warm ethanol and 5 ml. of 7N alcoholic hydrogen chloride was added. The solution was thoroughly mixed and allowed to remain at room temperature for 2 days. After cooling in an ice bath for 5 hours, the mixture was filtered and washed with several volumes of ethanol. Upon drying, a yield of 7.3 g. of 6-methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester, m.p. 117°-118° , was obtained.

reactant | 6-Methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid | 10 g | CC=1C=C2C=3CCC(CC3NC2=CC1)C(=O)O | C14H15NO2
reactant | hydrogen chloride | 7N | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 6-methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1CC=2NC3=CC=C(C=C3C2CC1)C | C16H19NO2
